US07772253B2
The necessary intermediate 4-Ethoxy-1H-indole-6-carbaldehyde was synthesized following the procedure described in J. Org. Chem. 2004, 69, 6945 and ensuing DIBAL-H—reduction and MnO2—oxidation of the resultant 4-ethoxy-1H-indole-6-carboxylic acid methyl ester, as yellow solid.

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | 4-ethoxy-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC(=C2C=CNC2=C1)OCC | C12H13NO3
catalyst | MnO2 | O=[Mn]=O
product | 4-Ethoxy-1H-indole-6-carbaldehyde | C(C)OC1=C2C=CNC2=CC(=C1)C=O | C11H11NO2
